US06140100
According to example 4, 1.00 g of 3,4-dihydro-2,6-dimethyl-4-oxoquinazoline (Sen, A. B.; Gupta, J. K. J. Indian Chem. Soc., 1962, 31, 369) was subjected to bromination using 1.05 g of N-bromosuccinimide (Aldrich) and 0.17 g of benzoyl peroxide in 50 mL of 1,2-dichloro-ethane for 30 min to afford 0.95 g (64%) of 6-bromomethyl-3,4-dihydro-2-methyl-4-oxoquinazoline as a tan solid.

reactant | 3,4-dihydro-2,6-dimethyl-4-oxoquinazoline | 1.00 g | CC1=NC2=CC=C(C=C2C(N1)=O)C | C10H10N2O
reactant | N-bromosuccinimide | 1.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.17 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | 1,2-dichloro-ethane | 50 mL | ClCCCl | C2H4Cl2
product | 6-bromomethyl-3,4-dihydro-2-methyl-4-oxoquinazoline | 0.95 g, 64% | BrCC=1C=C2C(NC(=NC2=CC1)C)=O | C10H9BrN2O
